US06734191B2
To a solution of (1H-N-t-butoxycarbonyl-benzimidazol-2-ylmethyl)-[4-(t-butoxycarbonylamino)-benzyl]-(5,6,7,8-tetrahydroquinolin-8-yl)-amine (62 mg, 0.106 mmol) in CH2Cl2 (2 mL) was added trifluoroacetic acid (1 mL). The mixture was stirred at room temperature for 2 h, then concentrated. The residue was taken up in CH2Cl2, washed with 15% NaOH (3 mL) and extracted repeatedly with CH2Cl2. The combined organic fractions were dried over anhydrous sodium sulfate, filtered and concentrated. The crude (1H-benzimidazol-2-ylmethyl)-[4-aminobenzyl]-(5,6,7,8-tetrahydroquinolin-8-yl)-amine was then added to a solution of 2-pyridinesulfonyl chloride (27 mg, 0.15 mmol) in DMF (1 mL). The resulting solution was stirred at room temperature for 30 min. The mixture was then concentrated, taken up in CH2Cl2 and washed with aqueous potassium carbonate. The organic fraction was then dried over anhydrous sodium sulfate, filtered, concentrated and purified by chromatography on silica gel (10:1:0.1 CH2Cl2:MeOH:NH4OH) to afford N′-({[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-phenyl)-N, N-dimethylformamidine (21 mg, 47%). 1H NMR (CDCl3) δ1.69 (m, 1H), 2.01 (m, 3H), 2.25 (m, 1H), 2.73 (m, 2H), 2.93 (s, 3H), 3.60 (s, 3H), 3.62 (d, 1H, J=13.2 Hz), 3.68 (d, 1H, J =13.2 Hz), 3.98 (d, 1H, J =16.2 Hz), 4.01 (m, 1H), 4.12 (d, 1H, J=16.2 Hz), 6.80 (d, 2H, J=8.1 Hz), 7.16 (m, 4H), 7.26 (d, 1H, J=8.1 Hz), 7.38 (m, 2 H), 7.40 (br s, 1H), 8.55 (d, 1H, J =4.8 Hz).

reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (1H-benzimidazol-2-ylmethyl)-[4-aminobenzyl]-(5,6,7,8-tetrahydroquinolin-8-yl)-amine | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=C2)N | C24H25N5
reactant | 2-pyridinesulfonyl chloride | 0.15 mmol, 27 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N′-({[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-phenyl)-N, N-dimethylformamidine | 21 mg, 47% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=C(C=CC=C2)N=CN(C)C | C27H30N6
